US04629787
Suspend 4.45 g 2-oxo-4-phenylbutyric acid in 25 ml water and adjust the pH to 7 with 50% NaOH. Add 1.14 g 3-(S)-amino-1-carboxymethylperhydroazepin-2-one hydrochloride and again adjust the pH to 7 with 50% NaOH. Dilute the resulting solution with water to a total volume of 60 ml then add 0.943 g sodium cyanoborohydride. After 2 days at room temperature, add 50 ml Dowex 50 (H+) and stir the mixture for 1 hour. Extract the mixture with ether and then add the Dowex 50 and aqueous portion to the top of a 100 ml. column of Dowex 50 (H+). Elute first with water until the eluate is neutral and then with 2% pyridine in water until no further product elutes (ninhydrin detection). Concentrate the product containing fractions at aspirator pressure, redissolve the residue in 50 ml water and freeze dry. Isolate the 1-carboxymethyl-3-(S)-[(1 -carboxy-3-phenylpropyl)amino]perhydroazepin-2-one as a white hygroscopic solid.

reactant | 2-oxo-4-phenylbutyric acid | 4.45 g | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | NaOH | [OH-].[Na+]
reactant | 3-(S)-amino-1-carboxymethylperhydroazepin-2-one hydrochloride | 1.14 g | Cl.N[C@@H]1C(N(CCCC1)CC(=O)O)=O
reactant | sodium cyanoborohydride | 0.943 g | C(#N)[BH3-].[Na+]
solvent | water | 25 ml | O | H2O
product | 1-carboxymethyl-3-(S)-[(1 -carboxy-3-phenylpropyl)amino]perhydroazepin-2-one | C(=O)(O)CN1C([C@H](CCCC1)NC(CCC1=CC=CC=C1)C(=O)O)=O | C18H24N2O5
